US08067638B2
Preparation of 5-nitro-2-(2,2,2-trifluoro-1-trifluoromethylethoxy)pyridine
2.45 g (61.2 mmol) of sodium hydride was introduced to 15 ml of THF and cooled to 5° C., and then 10.6 g of 1,1,1,3,3,3-hexafluoro-2-propanol was added dropwise thereto. The resulting solution was stirred at 5° C. for 30 minutes, and then 5.0 g of 2-chloro-5-nitropyridine dissolved in 10 ml of THF was added dropwise thereto and stirred at room temperature for 3 hours. The reaction solution was allowed to stand at room temperature for 3 days, the water was added thereto, and the mixture was extracted with ethyl acetate and then washed with saturated salt water. The resultant was dried over anhydrous magnesium sulfate, and then the solvent was removed under a reduced pressure to obtain a residue. The resulting residue was purified by silica gel column chromatography (n-hexane AcOEt=10:1) to obtain 8.4 g of the desired product (Yield: 92%) as yellow oil.

reactant | sodium hydride | 61.2 mmol, 2.45 g | [H-].[Na+]
reactant | 1,1,1,3,3,3-hexafluoro-2-propanol | 10.6 g | FC(C(C(F)(F)F)O)(F)F | C3H2F6O
reactant | 2-chloro-5-nitropyridine | 5.0 g | ClC1=NC=C(C=C1)[N+](=O)[O-] | C5H3ClN2O2
reactant | water | O | H2O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | THF | 15 ml | C1CCOC1 | C4H8O
product | 5-nitro-2-(2,2,2-trifluoro-1-trifluoromethylethoxy)pyridine | 8.4 g, Yield: 92% | [N+](=O)([O-])C=1C=CC(=NC1)OC(C(F)(F)F)C(F)(F)F | C8H4F6N2O3
